US08198299B2
Methyl 4-(cyanomethyl)-benzoic acid methyl ester (1.92 g, 11.01 mmol) and 1-bromo-2-(2-bromo-ethoxy)-ethane (12.56 mL, 55.04 mmol) were combined in THF (15 mL) and cooled down to 0° C. Potassium bis(trimethylsilyl)-amide (0.5M in toluene, 48.3 mL, 24.21 mmol, 2.2 eq) was added over a period of 15 minutes and then warmed up to room temperature and stirred for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was dried with MgSO4 and evaporated under vacuum. The crude product was purified by chromatography on silica gel (25% EtOAc/hexanes) to afford 4-(4-cyano-tetrahydro-pyran-4-yl)-benzoic acid methyl ester. To a solution of 4-(4-cyano-tetrahydro-pyran-4-yl)-benzoic acid methyl ester (1.55 g 6.32 mmol) in MeOH (10 mL) was added Et3N (3 mL). H2S was bubbled into the solution. The reaction vessel was stirred at room temperature for 3 days. The reaction mixture was then evaporated and purified by silica gel chromatography (33% EtOAc/hexanes) to afford 4-(4-thiocarbamoyl-tetrahydro-pyran-4-yl)-benzoic acid methyl ester.

reactant | Methyl 4-(cyanomethyl)-benzoic acid methyl ester | 11.01 mmol, 1.92 g | COC(C1=C(C=C(C=C1)CC#N)C)=O | C11H11NO2
reactant | 1-bromo-2-(2-bromo-ethoxy)-ethane | 55.04 mmol, 12.56 mL | BrCCOCCBr | C4H8Br2O
reactant | Potassium bis(trimethylsilyl)-amide | 24.21 mmol, 0.5M, 48.3 mL, 2.2 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(4-cyano-tetrahydro-pyran-4-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1(CCOCC1)C#N)=O | C14H15NO3
